US04244961
To a stirred mixture of 7 g lithium aluminum hydride and 150 ml tetrahydrofuran under argon is added dropwise over 20 minutes a solution of 24.6 g 8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one in 150 ml tetrahydrofuran. The mixture is heated at reflux for two hours. The stirred mixture is treated with sequential dropwise addition of 7 ml water, 7 ml 15% sodium hydroxide, and 21 ml water. The mixture is filtered and the filter cake is washed with three 200 ml portions of dichloromethane. Evaporation of the combined filtrates affords 23 g of 1-benzyl-4-hydroxy-4-methylaminomethylpiperidine, an oil. A solution of 23 g 1-benzyl-4-hydroxy-4-methylaminomethylpiperidine and 250 ml dichloromethane is mixed with 100 ml of a 15% solution of phosgene in toluene. Evaporation of solvent gives a residue which is treated with 300 ml dichloromethane and 300 ml aqueous sodium bicarbonate. Separation of the dichloromethane layer followed by evaporation gives 20 g 3-methyl-3-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 137°-138°.

reactant | lithium aluminum hydride | 7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 24.6 g | C(C1=CC=CC=C1)N1CCC2(CNC(O2)=O)CC1 | C14H18N2O2
reactant | water | 7 ml | O | H2O
reactant | sodium hydroxide | 7 ml | [OH-].[Na+]
reactant | water | 21 ml | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-hydroxy-4-methylaminomethylpiperidine | 23 g | C(C1=CC=CC=C1)N1CCC(CC1)(CNC)O | C14H22N2O
